US03975376
Anhydrous potassium carbonate (11.04 g.) was added to a stirred suspension of N-hydroxyphthalimide (17.12 g.) in dry dimethyl sulphoxide (200 ml.). A brown colour developed, 2-Chloromethylthiophene (28.5 g.) was added dropwise and the mixture was stirred for 16 hr., during which time the colour disappeared. The suspension was poured into water (800 ml.) and cooled to 5°. The white precipitate was filtered off, and recrystallised from ethanol to give colourless needles of N-(then-2-yloxy)phthalimide (23.4 g., 83%), m.p. 129.7°-130.9° τ values (DMSO-d6) are 4.58 (CH2), 2.28, 2.69, 2.90 (thienyl protons) 2.08 (phthalimide protons)

reactant | potassium carbonate | 11.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-hydroxyphthalimide | 17.12 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-Chloromethylthiophene | 28.5 g | ClCC=1SC=CC1 | C5H5ClS
reactant | water | 800 ml | O | H2O
solvent | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
product | N-(then-2-yloxy)phthalimide | 23.4 g, 83% | C(C1=CC=CS1)ON1C(C=2C(C1=O)=CC=CC2)=O | C13H9NO3S
